US07371743B2
(a) methyl 4-(morpholin-3-on-4-yl)-3-nitro-benzoate
1.00 g (3.85 mmol) methyl 4-bromo-3-nitro-benzoate are dissolved in 6 ml dioxane with 389 mg (3.85 mmol) morpholin-3-one under a nitrogen atmosphere and 36.6 mg (40 μmol) tris-(dibenzylideneacetone)-dipalladium(0), 67.1 mg (116 μmol) xantphos and 1.75 g (5.38 mmol) caesium carbonate are added. Under a nitrogen atmosphere and with stirring, the reaction mixture is heated to 95° C. for 16 hours. Then it is filtered, the solution is evaporated down i. vac. and evaporated with ether. The residue is further reacted without any more purification. Yield: 1.31 g (quantitative).

reactant | methyl 4-bromo-3-nitro-benzoate | 3.85 mmol, 1.00 g | BrC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | morpholin-3-one | 3.85 mmol, 389 mg | N1C(COCC1)=O | C4H7NO2
reactant | xantphos | 116 μmol, 67.1 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | caesium carbonate | 5.38 mmol, 1.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | methyl 4-(morpholin-3-on-4-yl)-3-nitro-benzoate | N1(C(COCC1)=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H12N2O6
